US08053457B2
6-Chloro-3-formyl-1H-indole-2-carboxylic acid ethyl ester
The title compound is prepared according to a published literature procedure (see J. Med. Chem. 2005, 48, 995-1018.) A solution of 6-chloro-1H-indole-2-carboxylic acid ethyl ester (5.0 g, 22.4 mmol) (commercially available from 3D Medical Systems Inc.) and POCl3 (2.46 mL, 26.8 mmol) in DMF (15 mL) is heated at 50° C. for 28 h. After completion, the reaction mixture is quenched by aqueous NaHCO3, Et2O is added and the organic layer is washed with brine, dried over MgSO4 and evaporated in vacuo. Silica gel flash chromatography of the residue affords the title compound as a colorless powder; ES-MS: M−=250.1; HPLC: AtRet=4.67 min.

reactant | 6-chloro-1H-indole-2-carboxylic acid ethyl ester | 22.4 mmol, 5.0 g | C(C)OC(=O)C=1NC2=CC(=CC=C2C1)Cl | C11H10ClNO2
reactant | POCl3 | 26.8 mmol, 2.46 mL | O=P(Cl)(Cl)Cl | Cl3OP
reactant | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 6-Chloro-3-formyl-1H-indole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1NC2=CC(=CC=C2C1C=O)Cl | C12H10ClNO3
